US07687490B2
THF (10 ml) and 20 ml of 30% aqueous ammonia were added to 1.51 g of 2-bromo-4-ethoxycarbonylthiazole, and the mixture was stirred at room temperature for 3 days. The reaction solution was concentrated to give 1.31 g of 2-bromo-4-carbamoylthiazole.

reactant | ammonia | 20 ml | N | H3N
reactant | 2-bromo-4-ethoxycarbonylthiazole | 1.51 g | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-bromo-4-carbamoylthiazole | 1.31 g | BrC=1SC=C(N1)C(N)=O | C4H3BrN2OS
